US06384065B1
In 1.4 ml of ethanol was dissolved 0.31 g of 4-[2-(carboxymethyl)-3-oxo-4-phenethyl-1-thia-4,8-diazaspiro[4.5]decan-8-yl]-4-oxobutanoic acid. After adding 1.36 ml of 1 mol/L aqueous solution of sodium hydroxide at 0-5° C., the resulting mixture was stirred at ambient temperature for 5 hours. The reaction mixture was poured into a mixture of ice water and ethyl acetate, and the aqueous layer was separated. The aqueous layer thus obtained was concentrated under reduce pressure to obtain 0.32 g of disodium 4-[2-(carboxymethyl)-3-oxo-4-phenethyl-1-thia-4,8-diazaspiro[4.5]decan-8-yl]-4-oxobutanoate as a colorless solid product.

reactant | 4-[2-(carboxymethyl)-3-oxo-4-phenethyl-1-thia-4,8-diazaspiro[4.5]decan-8-yl]-4-oxobutanoic acid | 0.31 g | C(=O)(O)CC1SC2(N(C1=O)CCC1=CC=CC=C1)CCN(CC2)C(CCC(=O)O)=O | C21H26N2O6S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 1.4 ml | C(C)O | C2H6O
product | disodium 4-[2-(carboxymethyl)-3-oxo-4-phenethyl-1-thia-4,8-diazaspiro[4.5]decan-8-yl]-4-oxobutanoate | 0.32 g | C(=O)(O)CC1SC2(N(C1=O)CCC1=CC=CC=C1)CCN(CC2)C(CCC(=O)[O-])=O.[Na+].[Na+].C(=O)(O)CC2SC1(N(C2=O)CCC2=CC=CC=C2)CCN(CC1)C(CCC(=O)[O-])=O | InChI=1S/2C21H26N2O6S.2Na/c2*24-17(6-7-18(25)26)22-12-9-21(10-13-22)23(11-8-15-4-2-1-3-5-15)20(29)16(30-21)14-19(27)28;;/h2*1-5,16H,6-14H2,(H,25,26)(H,27,28);;/q;;2*+1/p-2
